US06903114B2
(a) 1-(6,7-Dimethoxy-naphthalen-2-yl)-2-methyl-propan-1-one
The solution of 2,3-dimethoxynaphthalene (16.5 g ), isobutyroylchloride (12.5 g) and aluminum chloride (15.7 g) in methylene chloride (200 ml) was stirred at ambient temperature overnight. The solution was then washed with saturated sodium bicarbonate and water, dried with sodium sulfate and evaporated. Finally the crude product was triturated with ether. Yield: 13.5 g, melting point 103-105° C.

reactant | 2,3-dimethoxynaphthalene | 16.5 g | COC1=CC2=CC=CC=C2C=C1OC | C12H12O2
reactant | isobutyroylchloride | 12.5 g | C(C(C)C)(=O)Cl | C4H7ClO
reactant | aluminum chloride | 15.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 1-(6,7-Dimethoxy-naphthalen-2-yl)-2-methyl-propan-1-one | COC=1C=C2C=CC(=CC2=CC1OC)C(C(C)C)=O | C16H18O3
